US05359098
6-(6-piperidinylhexoxy)-2-(4-pyridy)-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by the method of Example 11 from 2',5'-dihydroxyacetophenone, 4-pyridylcarbonyl chloride, and piperidine: mp 186°-187° C.

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 4-pyridylcarbonyl chloride | N1=CC=C(C=C1)C(=O)Cl | C6H4ClNO
reactant | piperidine | N1CCCCC1 | C5H11N
product | 6-(6-piperidinylhexoxy)-2-(4-pyridy)-4H-1-benzopyran-4-one hydrochloride | Cl.N1(CCCCC1)CCCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=NC=C2)=O)C1 | InChI=1S/C25H30N2O3.ClH/c28-23-19-25(20-10-12-26-13-11-20)30-24-9-8-21(18-22(23)24)29-17-7-2-1-4-14-27-15-5-3-6-16-27;/h8-13,18-19H,1-7,14-17H2;1H
